* source AC_1
V_V1         N14607 0 DC 0Vdc AC 1Vac 
R_R1         N14607 N14614  33k TC=0,0 
R_R2         N14638 N14672  5.6k TC=0,0 
R_R3         0 N14638  10k TC=0,0 
C_C1         0 N14614  1n  TC=0,0 
X_U1         N14614 N14638 VCC VEE N14672 uA741
V_V2         VCC 0 15Vdc
V_V3         VEE 0 -15Vdc
