* source BJT_AMP_V
V_V1         IN 0  
+SIN 0 0.01mV 10k 0 0 0
R_R1         IN N14632  1k TC=0,0 
R_R2         N14628 N14463  49k TC=0,0 
R_R3         N14716 N14463  5k TC=0,0 
R_R4         0 N14628  27k TC=0,0 
R_R5         0 0  1.8k TC=0,0 
R_R6         0 OUT  1k TC=0,0 
V_V2         N14463 0 5Vdc
C_C1         N14632 N14628  3u  TC=0,0 
C_C2         N14716 OUT  4u  TC=0,0 
Q_Q1         N14716 N14628 0 Q2N2222
