* source BUCK
X_M1         N15023 N14795 N14788 Si2301BDS
R_R1         N14799 N14795  100 TC=0,0 
D_D1         0 N15023 Dbreak 
D_D2         N14826 N14853 Dbreak 
R_R2         N14849 N14845  100 TC=0,0 
X_M2         N14826 N14845 0 SI2302ADS
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND N14799 IO_STM IO_LEVEL=0 
+ 0 0
+ +1uS 1
+REPEAT FOREVER
+ +1uS 0
+  +1uS 1
+ ENDREPEAT
U_DSTM2         STIM(1,1) $G_DPWR $G_DGND N14849 IO_STM IO_LEVEL=0 
+ 0 0
+ +1uS 1
+REPEAT FOREVER
+ +1uS 0
+  +1uS 1
+ ENDREPEAT
V_V1         N14788 0 5Vdc
C_C1         0 N15037  {C}  TC=0,0 
I_I1         N15037 0 DC 0.5Adc  
C_C2         0 N14853  {C}  TC=0,0 
I_I2         N14853 0 DC 0.5Adc  
L_L1         N14788 N14826  10uH  
L_L2         N15023 N15037  {L}  
.PARAM  l=6.8uh c=10uf duty=0.5
