* source CMOS_INVERTER
X_M1         OUT N14595 N14504 BS250/PLP
X_M2         OUT N14556 N14504 BS250/PLP
X_M3         OUT N14595 N14552 2N7000/PLP
X_M4         N14552 N14556 0 2N7000/PLP
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND N14595 IO_STM IO_LEVEL=0 
+ 0 0
+ +0 1
+REPEAT FOREVER
+ +.5mS 0
+  +.5mS 1
+ ENDREPEAT
V_V1         N14504 0 5Vdc
U_DSTM2         STIM(1,1) $G_DPWR $G_DGND N14556 IO_STM IO_LEVEL=0 
+ 0 0
+ +0 1
+REPEAT FOREVER
+ +.5mS 0
+  +.5mS 1
+ ENDREPEAT
