* source CMOS_INVERTER_1
X_M1         N15499 IN N15582 BS250/PLP
X_M2         N15499 IN 0 2N7000/PLP
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND IN IO_STM IO_LEVEL=0 
+ 0 0
+ +0 1
+REPEAT FOREVER
+ +.5mS 0
+  +.5mS 1
+ ENDREPEAT
V_V1         N15582 0 5Vdc
U_DSTM2         STIM(1,1) $G_DPWR $G_DGND N15753 IO_STM IO_LEVEL=0 
+ 0 0
+ +0 1
+REPEAT FOREVER
+ +.5mS 0
+  +.5mS 1
+ ENDREPEAT
V_V2         N15824 0 5Vdc
M_M3         N15783 N15753 0 0 MbreakN           
M_M4         N15783 N15753 N15824 N15824 MbreakP           
