* source COMS_AND
U_DSTM2         STIM(1,1) $G_DPWR $G_DGND N15333 IO_STM IO_LEVEL=0 
+ 0 0
+ +0 1
+REPEAT FOREVER
+ +.5mS 0
+  +.5mS 1
+ ENDREPEAT
X_M4         N15479 N15333 0 2N7000/PLP
V_V1         N15255 0 5Vdc
X_M1         OUT N15325 N15255 BS250/PLP
X_M3         OUT N15325 N15479 2N7000/PLP
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND N15325 IO_STM IO_LEVEL=0 
+ 0 0
+ +0 1
+REPEAT FOREVER
+ +.5mS 0
+  +.5mS 1
+ ENDREPEAT
X_M2         OUT N15333 N15255 BS250/PLP
X_M5         OUT3 OUT N15255 BS250/PLP
X_M6         OUT3 OUT 0 2N7000/PLP
C_C1         OUT3 0  1n  TC=0,0 
