* source COMS_NOR
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND N15800 IO_STM IO_LEVEL=0 
+ 0 0
+ +0 1
+REPEAT FOREVER
+ +.5mS 0
+  +.5mS 1
+ ENDREPEAT
U_DSTM2         STIM(1,1) $G_DPWR $G_DGND N15817 IO_STM IO_LEVEL=0 
+ 0 0
+ +0 1
+REPEAT FOREVER
+ +.5mS 0
+  +.5mS 1
+ ENDREPEAT
X_M1         N15674 N15800 N15703 BS250/PLP
X_M2         N15650 N15817 N15674 BS250/PLP
X_M3         N15650 N15800 0 2N7000/PLP
X_M4         0 N15817 N15650 2N7000/PLP
V_V1         N15703 0 5Vdc
C_C1         N15650 0  1n  TC=0,0 
