* source COMMON_B
Q_Q1         N18738 N18326 N18424 Q2N2222
R_R2         N18276 N18326  56k TC=0,0 
R_R4         0 N18326  12k TC=0,0 
C_C1         0 N18326  75u  TC=0,0 
V_V2         N18276 0 10Vdc
R_R5         0 N18424  1k TC=0,0 
R_R7         N18276 N18738  2.2k TC=0,0 
R_R6         0 V0  0.1k TC=0,0 
C_C2         N18738 V0  10u  TC=0,0 
C_C3         N18424 N19649  10u  TC=0,0 
I_I2         N19649 0 DC 0Adc AC 0Aac
+SIN 0 100u 10k 0 0 0
R_R8         0 N19649  99999999M TC=0,0 
