* source COMMON_B_AND_C
R_R1         IN N16616  1k TC=0,0 
C_C2         N16654 V0  4u  TC=0,0 
Q_Q1         N16424 N16494 N16654 Q2N2222
C_C1         N16616 N16494  3u  TC=0,0 
R_R2         N16494 N16424  22k TC=0,0 
R_R6         0 V0  3k TC=0,0 
R_R5         0 N16654  1.8k TC=0,0 
R_R4         0 N16494  22k TC=0,0 
V_V1         IN 0  
+SIN 0 1mV 10k 0 0 0
V_V2         N16424 0 12Vdc
