* source COUNTER
X_U1A         N14535 VCC VCC VCC Q0 M_UN0001 $G_DPWR $G_DGND 7473 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1B         Q0 VCC VCC VCC Q1 M_UN0002 $G_DPWR $G_DGND 7473 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         Q1 VCC VCC VCC Q2 M_UN0003 $G_DPWR $G_DGND 7473 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND N14535 IO_STM IO_LEVEL=0 
+ 0 0
+ +.5uS 1
+REPEAT FOREVER
+ +.5uS 0
+  +.5uS 1
+ ENDREPEAT
V_V1         VCC 0 5Vdc
