* source DC_SWEEP
D_D1         0 N17113 D1N750 
R_R2         0 OUT  1k TC=0,0 
Q_Q         IN N17113 OUT Q2N3904
V_V1         IN 0 0Vdc
R_R1         N17113 IN  10 TC=0,0 
