* source D_FLIP_FLOP
X_U1A         VCC N14639 CLK VCC T_FF N14639 $G_DPWR $G_DGND 7474 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM2         STIM(1,1) $G_DPWR $G_DGND CLK IO_STM IO_LEVEL=0 
+ 0 0
+ +.5uS 1
+REPEAT FOREVER
+ +.5uS 0
+  +.5uS 1
+ ENDREPEAT
V_V1         VCC 0 5Vdc
