* source DIGITAL_CIRCUIT_1
U_DSTM2         STIM(1,1) $G_DPWR $G_DGND N15569 IO_STM IO_LEVEL=0 
+ 0 0
+ +0 1
+REPEAT FOREVER
+ +2u 0
+  +2u 1
+ ENDREPEAT
U_DSTM3         STIM(1,1) $G_DPWR $G_DGND N15595 IO_STM IO_LEVEL=0 
+ 0 0
+ +0 1
+REPEAT FOREVER
+ +1u 0
+  +1u 1
+ ENDREPEAT
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND N15493 IO_STM IO_LEVEL=0 
+ 0 0
+ +0 1
+REPEAT FOREVER
+ +4u 0
+  +4u 1
+ ENDREPEAT
U_DSTM4         STIM(1,1) $G_DPWR $G_DGND N15603 IO_STM IO_LEVEL=0 
+ 0 0
+ +0 1
+REPEAT FOREVER
+ +.5uS 0
+  +.5uS 1
+ ENDREPEAT
V_V1         VDD 0 12Vdc
X_U1         VDD VDD N15603 N15595 N15569 N15493 0 0 0 Q0 Q1 Q2 M_UN0001
+  M_UN0002 VDD 0 CD4532B PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
