* source DIODE_EXAM_2
V_V1         A B  
+SIN 0 {220*1.414} 60Hz 0 0 0
D_D1         0 A D1N4004 
D_D2         A OUT D1N4004 
D_D3         0 B D1N4004 
D_D4         B OUT D1N4004 
R_R1         0 OUT  {R} TC=0,0 
C_C1         0 OUT  {C}  TC=0,0 
.PARAM  c=100uf r=1k
