* source DIODE_RECTIFIER
V_V1         N14490 N14530  
+SIN 0 220*1.414 60Hz 0 0 0
D_D1         0 N14490 D1N4004 
D_D2         N14490 N14518 D1N4004 
D_D3         0 N14530 D1N4004 
D_D4         N14530 N14518 D1N4004 
R_R1         0 N14518  {R} TC=0,0 
C_C1         0 N14518  {C}  TC=0,0 
.PARAM  c=100uf r=1k
