* source DIODE_CLIPER
V_V1         IN 0  
+SIN 0 {100*1.414} 60Hz 0 0 0
D_D1         IN OUT D1N4004 
R_R1         0 OUT  {R} TC=0,0 
C_C1         0 OUT  {C}  TC=0,0 
.PARAM  c=100uf r=1k
