* source ELECTRIC_2
V_V1         N14452 0 1Vdc
R_R1         N14452 N14459  {R} TC=0,0 
R_R2         N14463 N14459  {R} TC=0,0 
R_R3         N14463 N14467  {R} TC=0,0 
R_R4         N14467 N14471  {R} TC=0,0 
R_R5         0 N14471  {R} TC=0,0 
R_R6         0 N14467  {2*R} TC=0,0 
R_R7         0 N14463  {2*R} TC=0,0 
R_R8         0 N14459  {2*R} TC=0,0 
.PARAM  r=1k
