* source ELECTRIC_4
V_V1         N14445 0 6Vdc
R_R1         N14445 N14452  4k TC=0,0 
R_R2         N14452 N14456  1k TC=0,0 
R_R3         0 N14452  4k TC=0,0 
R_R4         N14479 N14456  2k TC=0,0 
R_R5         N14479 0  1k TC=0,0 
R_R6         N14472 N14479  4k TC=0,0 
I_I1         N14472 N14456 DC 6mAdc  
