* source ELECTRIC_6
R_R4         0 A  3k TC=0,0 
R_R1         N14803 A  3k TC=0,0 
R_R2         N14875 A  3k TC=0,0 
R_R3         N14943 A  3k TC=0,0 
I_I1         0 N14803 DC 1mAdc  
I_I2         0 N14875 DC 1mAdc  
I_I3         0 N14943 DC 1mAdc  
