* source ELECTRIC_7
V_V1         N14438 0 6Vdc
R_R1         N14438 N14445  1k TC=0,0 
R_R2         0 N14487  1k TC=0,0 
R_R3         N14487 N14445  2k TC=0,0 
R_R4         N14445 A  1k TC=0,0 
R_R5         N14487 B  1k TC=0,0 
R_Rdum         B A  {R} TC=0,0 
V_CONST1         VCC 0 DC {3/0.001}
.PARAM  r=1t
