* source ELECTRIC_8
I_I1         0 N15385 DC 6mAdc  
R_R1         0 N15385  2k TC=0,0 
R_R2         B A  2k TC=0,0 
V_V1         A N15385 2Vdc
V_V2         B 0 4Vdc
R_Rdum         B A  1m TC=0,0 
V_V3         N15943 0 1Vdc
R_R3         N15954 N15943  1k TC=0,0 
I_I2         0 N16028 DC 1mAdc  
R_R4         0 N16028  1k TC=0,0 
R_R5         0 N15954  1T TC=0,0 
R_R6         0 N16028  1m TC=0,0 
