* source ELECTRIC_9
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND VCC IO_STM IO_LEVEL=0 
+ 0 0
+ +2m 1
+REPEAT FOREVER
+ +6m 0
+  +6m 1
+ ENDREPEAT
R_R1         VCC N15694  1k TC=0,0 
L_L1         VCC N15725  0.5H  
C_C1         VCC N15729  0.5uF  TC=0,0 
R_R2         N15694 0  1k TC=0,0 
R_R3         N15725 0  1k TC=0,0 
R_R4         N15729 0  1k TC=0,0 
