* source EXAM_8_2
R_R16         N21399 N21413  100k TC=0,0 
X_U2         N21389 N21399 Sw_tOpen PARAMS: tOpen=50 ttran=1u Rclosed=0.01
+  Ropen=1Meg
C_C1         0 N21413  100u  TC=0,0 
V_V3         N21389 0 5Vdc
X_U1         0 N21399 Sw_tClose PARAMS: tClose=50 ttran=1u Rclosed=0.01
+  Ropen=1Meg
