* source FET_AMP
R_Rsi         IN N14527  0.1k TC=0,0 
R_R1         N14560 N14611  49k TC=0,0 
R_R2         0 N14560  27k TC=0,0 
R_Rd         N14635 N14611  6k TC=0,0 
R_Rs         0 N14639  0.2k TC=0,0 
R_RL         0 OUT  10k TC=0,0 
C_C1         N14527 N14560  3u  TC=0,0 
C_C3         N14635 OUT  4u  TC=0,0 
C_Cs         0 N14639  75u  TC=0,0 
V_V2         N14611 0 5V
V_V1         IN 0  AC 1
+SIN 0 1mV 10k 0 0 0
M_M1         N14635 N14560 N14639 N14639 M2N7000
V_CONST1         VGS 0 DC {1.776-0.8989}
