* source LDO
X_U1A         VZ VREF N14536 0 N14558 LM358
R_R1         VZ N14536  1k TC=0,0 
R_R2         N14558 N14554  1k TC=0,0 
R_R3         VREF VOUT  {R2} TC=0,0 
R_R4         0 VREF  {R1} TC=0,0 
I_I1         VOUT 0 DC 100mA  
Q_Q1         N14536 N14554 VOUT Q2N3904
V_V1         N14536 0 12v
D_D1         0 VZ D1N750 
V_CONST1         N14860 0 DC {Vref*(1+R2/R1)}
.PARAM  vref=4.646v r2=39k r1=470k
