* source LDO_2
R_R1         0 N14495  {R2} TC=0,0 
R_R2         N14495 N14518  {R1} TC=0,0 
V_V1         N14565 0 12V
I_I1         N14518 0 DC 1A  
X_U3         NCP1117_ADJ1-X
