* source LIB_CHECK
C_C3         N24669 DC_SEC2  220u  TC=0,0 
C_C2         N24245 DC_SEC1  680u  TC=0,0 
R_R19         N24245 DC_SEC1  1k TC=0,0 
D_D1         N24245 AC_SEC1 D1N4004 
D_D6         AC_SEC DC_SEC2 D1N4004 
D_D2         AC_SEC1 DC_SEC1 D1N4004 
V_V4         0 AC_IN  
+SIN 0 230 60 0 0 0
D_D7         N24669 N24355 D1N4004 
D_D3         N24245 N24355 D1N4004 
D_D8         N24355 DC_SEC2 D1N4004 
R_R20         N24669 DC_SEC2  1k TC=0,0 
D_D4         N24355 DC_SEC1 D1N4004 
D_D5         N24669 AC_SEC D1N4004 
X_U1         N24355 AC_IN AC_SEC AC_SEC1 0 TESTSCHEMATIC
