* source CMOS_MODEL_LIB_GEN
.SUBCKT CMOS_NOR_GATE X1 X2 Out VCC  
X_M8         N20502 X1 VCC BS250/PLP
X_M7         OUT X2 N20502 BS250/PLP
X_M6         OUT X2 0 2N7000/PLP
C_C2         OUT 0  1n  TC=0,0 
X_M5         OUT X1 0 2N7000/PLP
.ENDS
