* source MODEL2
.SUBCKT Model2_lib IN MID OUT  
R_R3         MID OFFPAGELEFT-R  3.3k TC=0,0 
R_R2         0 MID  1k TC=0,0 
R_R1         MID IN  1k TC=0,0 
R_R4         OUT 0  1k TC=0,0 
D_D1         0 MID D1N3940 
D_D2         MID OFFPAGELEFT-R D1N3940 
C_COUT         MID OUT  0.47U  TC=0,0 
V_V1         OFFPAGELEFT-R 0 5Vdc
.ENDS
