* source MAIN_MODEL2
V_V1         N14446 0 DC 0Vdc AC 1Vac 
R_R1         0 N14453  1k TC=0,0 
R_R2         0 N14460  1k TC=0,0 
X_U1         N14446 N14460 N14453 MODEL2_LIB
