* source MISSION_1_PASSIVE_FILTER
R_R1         N14625 N14632  50 TC=0,0 
R_R2         0 N14704  50 TC=0,0 
C_C1         0 N14632  553.0pF  TC=0,0 
C_C2         N143910 N14632  42.16pF  TC=0,0 
C_C3         N14640 0  839.8pF  TC=0,0 
C_C4         N14640 N144231  39.46pF  TC=0,0 
C_C5         0 N14700  839.8pF  TC=0,0 
C_C6         N144550 N14700  42.16pF  TC=0,0 
C_C7         N14704 0  553.0pF  TC=0,0 
L_L1         N14632 0  76.34nH  
L_L2         N143910 N14640  1.001uH  
L_L3         N14640 0  50.27nH  
L_L4         N144231 N14700  1.070uH  
L_L5         N14700 0  50.27nH  
L_L6         N144550 N14704  1.010uH  
L_L7         N14704 0  76.34nH  
V_V1         N14625 0 DC 0Vdc AC 1Vac 
