* source NPN_1
V_Vsig         IN 0  AC 1
+SIN 0 1mV 10k 0 0 0
R_R1         IN N14565  1k TC=0,0 
R_RB1         N14569 N14624  49k TC=0,0 
R_RB2         0 N14569  27k TC=0,0 
R_RC         N14620 N14624  5k TC=0,0 
R_RE         0 N14735  1.8k TC=0,0 
R_RL         0 OUT  1k TC=0,0 
C_C1         N14565 N14569  3u  TC=0,0 
C_CC         N14620 OUT  4u  TC=0,0 
V_VDC         N14624 0 5V
Q_Q1         N14620 N14569 N14735 Q2N2222
C_C2         0 N14735  75u  TC=0,0 
