* source NPN_IV_CUR
V_VBE         N14360 0 0Vdc
V_V2         N14367 0 2Vdc
Q_Q1         N14367 N14360 0 Q2N2222
Q_Q2         N14627 N14657 0 Q2N2222
V_V1         N14627 0 0Vdc
I_I1         0 N14657 DC 0Adc  
