* source OPAMP_1
X_M1         N14684 N14684 N14831 2N7000/PLP
X_M2         N14712 N14839 N14773 2N7000/PLP
X_M5         N14800 N14824 N14773 2N7000/PLP
X_M7         N14949 N14684 N14831 2N7000/PLP
X_M8         N14773 N14684 N14831 2N7000/PLP
X_M9         N14800 N14712 N14692 BS250/PLP
X_M10         N14949 N14800 N14692 BS250/PLP
X_M11         N14712 N14712 N14692 BS250/PLP
R_R1         N14839 0  1k TC=0,0 
R_R2         N14839 N14949  10k TC=0,0 
I_I1         N14692 N14684 DC {vr}  
V_V2         N14692 0 5Vdc
V_V3         0 N14831 5Vdc
C_C1         N14800 N14949  1n  TC=0,0 
V_V4         N14824 0 DC 0Vdc AC 1Vac 
.PARAM  r2=1k vr=10u
