* source OPAMP_2_OUTPUT_TYPE
X_U1         REF IN N14714 VCC 0 NCS2202 
X_U2         REF IN N143582 VCC 0 NCS2200 
V_V1         IN 0  
+SIN 2 1 1k 0 0 0
V_V2         VCC 0 5Vdc
R_R1         VCC REF  {R} TC=0,0 
R_R2         0 REF  {R} TC=0,0 
R_R3         N14714 VCC  10k TC=0,0 
R_R4         0 N143582  10k TC=0,0 
.PARAM  r=100k
