* source OPAMP_BASIC
X_U1A         0 N14387 VCC VEE IN_V LM324
R_R1         EI N14387  {R} TC=0,0 
R_R2         N14387 IN_V  {R} TC=0,0 
R_R3         0 N14730  {R} TC=0,0 
X_U1B         EI N14730 VCC VEE NON LM324
R_R4         N14730 NON  {R} TC=0,0 
V_V1         EI 0  
+SIN 0 0.5 1k 0 0 0
V_V2         VCC 0 12V
V_V3         VEE 0 -12Vdc
.PARAM  r=10k
